US07781478B2
A solution of N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]methanesulfonamide (130 mg, 0.35 mmol), prepared as in Example 1Y, in DMF (10 mL) is treated with NaH (21 mg, 0.53 mmol), and stirred at room temperature for 10 min. Iodomethane (0.03 mL, 0.53 mmol) is added, and the mixture is stirred at room temperature for 18 h. The reaction mixture is then diluted with H2O, and extracted with EtOAc (2×). The organic phases are washed with H2O and saturated NaCl and then dried and concentrated. Purification by flash chromatography over silica gel (EtOAc/CH2Cl2, 0-1%) gives 60 mg (45%) of N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]-N-methyl methanesulfonamide as a white solid.

reactant | N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]methanesulfonamide | 0.35 mmol, 130 mg | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C1=CC=C(C=C1)NS(=O)(=O)C | C19H19N3O3S
reactant | NaH | 0.53 mmol, 21 mg | [H-].[Na+]
reactant | Iodomethane | 0.53 mmol, 0.03 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | N-[4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]-N-methyl methanesulfonamide | 60 mg, 45% | C(#N)C1=C(N(C2=CC(=CC=C12)OC)CC)C1=CC=C(C=C1)N(S(=O)(=O)C)C | C20H21N3O3S
